US06919356B2
Part A: Preparation of trans-1-[2-(4-fluorophenyl)ethyl]-4-methyl-2,6-dioxopiperidine-3-carbonitrile
A solution of ethyl cyanoacetate (4.26 mL, 40 mmol) and trans-2-butenoic acid [2-(4-fluoro-phenyl)ethyl]amide (4.15 g, 20 mmol) in tert-butanol (60 mL) was treated with a solution of potassium tert-butoxide in tetrahydrofuran (1.0 M, 40 mL, 40 mmol) and the mixture was heated at 80° C. The mixture was cooled to room temperature after 16.5 hours and diluted with 1.0 N aqueous hydrochloric acid. The mixture was concentrated under vacuum to remove the organic solvents, providing a suspension of solid in the aqueous residue. This was collected by filtration, dried, and purified by recrystallization from 95% ethanol to provide a white solid (5.13 g, 93%). 1H NMR (300 MHz, CDCl3) δ7.19 (m, 2H), 7.00 (t, J=9 Hz, 2H), 4.02 (m, 2H), 3.41 (d, J=11 Hz, 1H), 2.91 (m, 1H), 2.83 (t, J=8 Hz, 2H), 2.5-2.3 (m, 2H), 1.31 (d, J=6 Hz, 3H). Mass spec (CI) m/z 275.0 (M+H+, 100%).

reactant | ethyl cyanoacetate | 40 mmol, 4.26 mL | C(#N)CC(=O)OCC | C5H7NO2
reactant | trans-2-butenoic acid [2-(4-fluoro-phenyl)ethyl]amide | 20 mmol, 4.15 g | FC1=CC=C(C=C1)CCNC(\C=C\C)=O | C12H14FNO
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | tetrahydrofuran | 40 mmol, 1.0 M, 40 mL | O1CCCC1 | C4H8O
solvent | tert-butanol | 60 mL | C(C)(C)(C)O | C4H10O
solvent | hydrochloric acid | 1.0 N | Cl | ClH
product | trans-1-[2-(4-fluorophenyl)ethyl]-4-methyl-2,6-dioxopiperidine-3-carbonitrile | 5.13 g, 93% | FC1=CC=C(C=C1)CCN1C([C@H]([C@@H](CC1=O)C)C#N)=O | C15H15FN2O2
